US08071608B2
Intermediate AH6: 3-Chloro-2-(4-chloro-1H-pyrazolo[3,4-d]pyrimidin-1-yl)benzonitrile
Phosphorus oxychloride (7.93 mL, 85.03 mmol) was added to 3-chloro-2-(4-hydroxy-1H-pyrazolo[3,4-d]pyrimidin-1-yl)benzonitrile (Intermediate AH5) (1.155 g, 4.25 mmol). The resulting mixture was heated to 100° C. and stirred for 4 hours. The reaction mixture was allowed to cool to ambient temperature. The reaction mixture was evaporated to near dryness. Poured onto ice/water with stirring. A solid precipitate was collected by filtration. This was dried overnight under vacuum to afford the product (0.928 g, 75%). 1H NMR (400 MHz, DMSO) δ 8.02-7.96 (1H, t), 8.26 (1H, d), 8.28 (1H, s), 9.05 (2H, d). m/z M+=289; GCMS tR=13.82 min.

reactant | Phosphorus oxychloride | 85.03 mmol, 7.93 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-chloro-2-(4-hydroxy-1H-pyrazolo[3,4-d]pyrimidin-1-yl)benzonitrile | 4.25 mmol, 1.155 g | ClC=1C(=C(C#N)C=CC1)N1N=CC=2C1=NC=NC2O | C12H6ClN5O
product | 3-Chloro-2-(4-chloro-1H-pyrazolo[3,4-d]pyrimidin-1-yl)benzonitrile | 0.928 g, 75% | ClC=1C(=C(C#N)C=CC1)N1N=CC=2C1=NC=NC2Cl | C12H5Cl2N5
